US08486967B2
(3-Bromo-3-phenylpropoxy)(tert-butyl)dimethylsilane
A suspension of tert-butyldimethyl(3-phenylpropoxy)silane (2.22 g, 8.86 mmol), N-bromosuccinimide (1.58 g, 8.86 mmol) and benzoyl peroxide (66.4 mg, 266 μmol) in carbon tetrachloride (17.8 mL) was heated to reflux for 3 hours. The reaction was filtered, the precipitate washed with carbon tetrachloride and the solvent was evaporated. Water was added and the reaction was extracted twice with diethyl ether. The combined organic layers were washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and the solvent was evaporated under reduced pressure. The title compound was obtained as a light yellow oil (1.63 g, 55%) after column chromatography on silica gel using heptane/ethyl acetate 19:1 (v/v) as eluent. 1H NMR (CDCl3, 300 MHz): δ (ppm)=7.42-7.26 (m, 5H), 5.42 (dd, 1H), 3.76 (m, 1H), 3.68 (m, 1H), 2.48 (m, 1H), 2.28 (m, 1H), 0.90 (s, 9H), 0.06 (s, 3H), 0.03 (s, 3H).

reactant | tert-butyldimethyl(3-phenylpropoxy)silane | 8.86 mmol, 2.22 g | C(C)(C)(C)[Si](OCCCC1=CC=CC=C1)(C)C | C15H26OSi
reactant | N-bromosuccinimide | 8.86 mmol, 1.58 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 266 μmol, 66.4 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 17.8 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | (3-Bromo-3-phenylpropoxy)(tert-butyl)dimethylsilane | BrC(CCO[Si](C)(C)C(C)(C)C)C1=CC=CC=C1 | C15H25BrOSi
